US08604033B2
According to Scheme 2 Step 1: A suspension of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (25.8 mmol, 5.00 g), 1-(chloromethyl)-4-methoxybenzene (25.8 mmol, 3.49 mL) and K2CO3 (25.8 mmol, 3.56 g) in acetonitrile (40 mL) was heated at 80° C. for 5 hours. After filtration over celite, the filtrate was evaporated and the resulting crude product was purified by flash chromatography over silica gel using EtOAc/cyclohexane (90:10 to 70:30) as eluent to afford 1-(4-methoxybenzyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (24.2 mmol, 7.61 g, 94%) as a colorless solid.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 25.8 mmol, 5.00 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | 1-(chloromethyl)-4-methoxybenzene | 25.8 mmol, 3.49 mL | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | K2CO3 | 25.8 mmol, 3.56 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 1-(4-methoxybenzyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 24.2 mmol, 7.61 g, 94% | COC1=CC=C(CN2N=CC(=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C17H23BN2O3
